US04262005
A solution of 2.3 g 2-(2,4-dichlorophenylimino)imidazolidine and 1.1 g acetic anhydride in 50 ml dry benzene was allowed to stand at room temperature for three days. The white crystalline solid was filtered off and washed with benzene to give the novel compound 1-acetyl-2-(2,4-dichlorophenylimino)imidazolidine, melting point 168°-169° C.

reactant | 2-(2,4-dichlorophenylimino)imidazolidine | 2.3 g | ClC1=C(C=CC(=C1)Cl)N=C1NCCN1 | C9H9Cl2N3
reactant | acetic anhydride | 1.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-acetyl-2-(2,4-dichlorophenylimino)imidazolidine | C(C)(=O)N1C(NCC1)=NC1=C(C=C(C=C1)Cl)Cl | C11H11Cl2N3O
